US04940710
(-)-1-Ethyl-6,8-difluoro-7-[3-(fluoromethyl)-4-methyl-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 150 mg of (-)-1-ethyl-6,8-difluoro-7-[3-(fluoromethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (Ex. 64) was reacted as described previously with 400 mg of sodium acetate, 3 ml of formic acid and 3 ml of formaldehyde, giving 110 mg of the desired product, mp 208°-210° C. (dec.).

reactant | (-)-1-ethyl-6,8-difluoro-7-[3-(fluoromethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 150 mg | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(NCC1)CF)F)=O)C(=O)O | C17H18F3N3O3
reactant | sodium acetate | 400 mg | C(C)(=O)[O-].[Na+]
reactant | formaldehyde | 3 ml | C=O | CH2O
solvent | formic acid | 3 ml | C(=O)O | CH2O2
product | (-)-1-Ethyl-6,8-difluoro-7-[3-(fluoromethyl)-4-methyl-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 110 mg | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(N(CC1)C)CF)F)=O)C(=O)O | C18H20F3N3O3
